datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.CC[O:61][C:111]([C-:10]([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112]>>CC[O:61][C:111]([C:10]([CH:20]([CH:21]=[CH:22][N:23]1CCOCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112] 10=20;20,21=21,22;22,23=23"
"Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl.[OH2:10]>>Cl[C:20]1([OH2+:10])[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10=20;20,21=21,22;22,23=23"
C/[N:10]=C/C1=CC=CC=C1.C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C/[N+:10](=C/C1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][C:33](F)=[C:34](C)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]1 10=20
"CO[C-:10]([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1>>CO[C:10]([CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])CCC[S:41]1(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[C:54](OC)[CH:56]=[CH:55]1)([C:61](=[O:62])[O:72]C)[C:81](=[O:82])[O:92]C 10=20;20,21=21"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)[O-:12].F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>CC[O:61][C:11]([C:10]([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12"
"C[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>C[C+:11]([CH2:10][C:20]1([O-:21])[C:31](Cl)=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41]1Cl)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;20,21=21"
CCCC[C-:10]([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CCCC[C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]1)([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC 10=20
"CC(C)[P:10](C(C)C)C(C)C.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C>>CC(C)[P+:10](C(C)C)(C(C)C)[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][C:11](C)=[CH:10]2)[CH:63]=[CH:64]1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>CO[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[C:11](C)[CH:10]2[C:20]2(Cl)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]2Cl)[CH:63]=[CH:64]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH2:20].C[Si:11](C)([H:10])[CH2:62][Sn:63](C)(C)C>>C[N:21](C)[CH2:20][H:10].C[Si+:11](C)[CH2:62][Sn:63](C)(C)C 10,11=10,20;20,21=21"
"CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH:11]=[CH2:10])OC1(C)C.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][CH+:11][CH2:62][B-:63]2(C3=CC=CC=C3)OC(C)(C)C(C)(C)O2)[N:21](C)C)[CH:36]=[CH:35]1 10,11=10,20;20,21=21"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([O:10][C:61]2=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.[H][Si:11]([H])([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.[H][Si+:11]([H])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].CN(C)C1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1>>CN(C)C1=CC=C(C[C:10]2([CH2:20][C:21]3=[C:22]([O-:23])[O:33]CC3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20;20,21=21,22;22,23=23"
"C1COC2(CC[C:20](=[O:21])CC2)O1.CC[O:72][C:11](=[CH:10][P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12]>>CC[O:72][C:11]([CH:10]([C:20]1([O-:21])CCC2(CC1)OCCO2)[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
